data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1944,2154,[CH3:13][O:14][C:15](=[O:16])[C:17](=[O+:18][C-:19]([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25])[C:26]([CH3:27])=[O:28].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([C:26]([CH3:27])=[O:28])[O:18][C:19]2([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,21.303901594649385,-26.6807737318716
4957,5643,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16]([CH3:17])=[NH+:18][C-:19]([C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:20]#[N:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:18][C:16]2([CH3:15])[CH3:17],water,298.15,14.412812156498635,2.033891110412866
4342,4963,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20])[C:21]([CH3:22])=[O:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([C:21]([CH3:22])=[O:23])[NH:15][C:16]1([C:17]#[N:18])[C:19]#[N:20],water,298.15,13.177538742467071,-15.046172821137082
109,125,[CH3:13][CH-:14][N+:15]#[N:16].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[N:16]=[N:15][CH:14]2[CH3:13],water,298.15,16.095705982560546,-29.04163760477615
2704,3004,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]#[C:10][C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28](=[NH+:29][CH-:30][C:31]([CH3:32])=[O:33])[C:34]([CH3:35])=[O:36]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]2=[C:10]([C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([O:25][CH3:24])=[O:27])([C:34]([CH3:35])=[O:36])[NH:29][CH:30]2[C:31]([CH3:32])=[O:33],water,298.15,26.07475501182692,-11.893690824712651
2715,3015,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([NH+:21]=[C:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[C:35](=[O:36])[O:37][CH3:38].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([CH3:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([CH3:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:35](=[O:36])[O:37][CH3:38])[NH:21][C:22]2([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,25.33013388142751,-30.69351412093829
2733,3038,[CH3:15][NH:16][C:17](=[O:18])[N-:19][O+:20]=[N:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[N:19]([C:17]([NH:16][CH3:15])=[O:18])[O:20][N:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,36.74909003288545,-48.18634821889862
3494,3984,[CH3:10][C:11](=[O:12])[C:13](=[O+:14][O-:15])[C:16]([CH3:17])=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][O:15][O:14][C:13]1([C:11]([CH3:10])=[O:12])[C:16]([CH3:17])=[O:18],water,298.15,11.936279190278164,-27.71778374218372
880,953,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[O+:19][CH-:20][C:21]#[N:22].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:20]([C:21]#[N:22])[O:19][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[CH3:18],water,298.15,17.202679949340315,-53.3436856960512
3803,4353,[CH2:10]=[N+:11]([CH3:12])[C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:11]([CH3:12])[CH2:10]1,water,298.15,15.660284159067798,-27.424611433752663
2011,2233,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][NH+:18]=[C:19]([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][NH:2][C:3](=[O:4])/[C:5]([Cl:6])=[C:7](/[Cl:8])[C:9](=[O:10])[NH:11][CH3:12]>>[CH3:1][NH:2][C:3](=[O:4])[C@@:5]1([Cl:6])[C@@:7]([Cl:8])([C:9](=[O:10])[NH:11][CH3:12])[CH:17]([C:15]([NH:14][CH3:13])=[O:16])[NH:18][C:19]1([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,22.591162627608927,-20.671379054219184
